Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril / codeine / Vicodin / metoprolol / Benadryl
 
Attending: ___.
 
Chief Complaint:
lower extremity swelling
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ w/ HTN, a-fib (on Xarelto/proafenone), and prior PE, who had 
spent the last 5 weeks hospitalized at ___ (over 3 
hospitalizations) for R>LLE swelling, who now returns for 
ongoing management of the same issue after an as of yet 
inconclusive workup. 

The ___ initially presented to ___ on ___ w/ 
identical complaints. He was started on vancomycin & 
piperacillin-tazobactam for presumed RLE ceullulitis. Course was 
complicated by sepsis w/ ___ (creatinine to 3.2). The RLE 
redness subsided with antibiotics but swelling did not. Other 
workup during that hospitalization included: negative Doppler US 
of RLE for DVT, RLE MRI showing nonspecific subcutaneous fluid 
collections deep to the deep fascia w/ mild intramuscular edema. 
The fluid was aspirated by ___ a few drops of blood were 
obtained and bacterial culture of this was negative. Because of 
the muscle edema at the base of the R gastrocnemius (which had 
an unusual woody fullness on palpation) and because of a new 
subcutaneous nodule overlying the tibial tuberosity, he was 
suspected to have a rheumatologic condition. The nodule was 
biopsied, which showed mixed inflammation with neutrophils, 
plasma cells, & eosinophils consistent with panniculitis. He was 
seen by rheum and a broad panel of autoimmune serologies was 
negative. Of note, his BNP had been noted to be as high as 1400 
at ___, but clinical CHF had not been felt to be a major 
contributor to the swelling.  

The ___ re-presented to ___ w/ continued RLE redness & 
pain and continued b/l ___ swelling. Other presenting complaints 
included palpitations and diaphoresis when he went into atrial 
fibrillation. He otherwise denied fevers, chills, weight 
changes, HAs, CP, SOB, cough, abdominal pain, N/V/D, arthralgias 
or myalgias aside from legs, skin changes, focal neurological 
complaints, or changes in mood. 
 
Past Medical History:
Paroxysmal atrial fibrillation
Essential HTN
HLD
H/O PE
Recent RLE cellulitis
 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=======================
98.3 133/87 73 14 97RA
General: Obese middle-aged male lying in bed, NAD, A/Ox3.
Head: NC/AT.
Neck: Supple, difficult to assess JVD given obesity but appears
at lower neck.
Cardiac: Currently NSR, S1S2 w/ ___ systolic murmur heard at
upper precordium.
Respiratory: CTAB w/o w/r/c.
Abdomen: Obese, soft, NT, +BS.
MSK: No joint tenderness on palpation of wrists, elbows,
shoulders, knees, ankles.
Extremities: 2+ pitting edema of b/l lower extremities to lower
thighs, no hair on shins, dry & cracked skin noted throughout 
but
prominent on underside of right foot, site of prior skin biopsy
on right heel c/d/i, erythema and tenseness of right foot and
heel, WWP.

DISCHARGE PHYSICAL EXAM:
========================
VS: 98.2 PO 140 / 90 L Lying 77 18 98 Ra 
General: Obese pleasant and conversant male. lying in bed
comfortably. NAD, A/Ox3.
HEENT: EOMI, PERRLA. oropharynx clear. MMM. neck supple, JVP 
10cm
at 45cm
Cardiac: RRR, +S1S2 w/ ___ systolic ejection murmur heard best 
at
LUSB
Respiratory: CTAB. good effort. no c/w/r
Abdomen: Obese, soft, NT, ND, normoactive BS.
Extremities: 1+ peripheral edema in ___ b/l dry & cracked skin
noted throughout site of prior skin biopsy on right heel c/d/i,
WWP. Right foot dusky in coloration, pulses present bilaterally. 
subcutaneous nodules on R calf and shin. non ttp.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 10:55PM BLOOD WBC-9.3 RBC-3.36* Hgb-10.2* Hct-32.0* 
MCV-95 MCH-30.4 MCHC-31.9* RDW-13.2 RDWSD-45.8 Plt ___
___ 10:55PM BLOOD Neuts-69.1 ___ Monos-7.7 Eos-1.8 
Baso-0.6 Im ___ AbsNeut-6.38* AbsLymp-1.88 AbsMono-0.71 
AbsEos-0.17 AbsBaso-0.06
___ 10:55PM BLOOD Glucose-88 UreaN-31* Creat-1.3* Na-135 
K-5.2* Cl-99 HCO3-23 AnGap-13
___ 06:35AM BLOOD ALT-7 AST-12 LD(LDH)-142 AlkPhos-54 
TotBili-0.4
___ 10:55PM BLOOD Calcium-9.5 Phos-4.1 Mg-1.9

DISCHARGE LABS:
===============
___ 05:40AM BLOOD WBC-6.4 RBC-3.49* Hgb-10.6* Hct-33.1* 
MCV-95 MCH-30.4 MCHC-32.0 RDW-13.2 RDWSD-45.2 Plt ___
___ 05:40AM BLOOD Glucose-90 UreaN-18 Creat-0.8 Na-137 
K-4.1 Cl-100 HCO3-27 AnGap-10

IMAGING:
========
Echocardiogram ___:
The left atrium is elongated. The right atrium is markedly 
dilated. No atrial septal defect is seen by 2D or color Doppler. 
There is moderate symmetric left ventricular hypertrophy. The 
left ventricular cavity size is normal. Regional left 
ventricular wall motion is normal. Overall left ventricular 
systolic function is normal (LVEF>55%). Tissue Doppler imaging 
suggests a normal left ventricular filling pressure 
(PCWP<12mmHg). Right ventricular chamber size and free wall 
motion are normal. The aortic root is mildly dilated at the 
sinus level. The ascending aorta is mildly dilated. The aortic 
arch is moderately dilated. The aortic valve leaflets (3) are 
mildly thickened but aortic stenosis is not present. The mitral 
valve appears structurally normal with trivial mitral 
regurgitation. There is no mitral valve prolapse. Mild (1+) 
mitral regurgitation is seen. The pulmonary artery systolic 
pressure could not be determined. There is no pericardial 
effusion. 

IMPRESSION: Moderate symmetric left ventricular hypertrophy with 
preserved global and regional biventricular systolic function. 
Mild-moderately dilated thoracic aorta. Mild mitral 
regurgitation.  

MICROBIOLOGY:
==============
None

 
Brief Hospital Course:
Information for Outpatient Providers: ___ for 
Admission:
===============================
___ w/ HTN, a-fib (on Xarelto/proafenone), and prior PE, who had 
spent the last 5 weeks hospitalized at ___ (over 3 
hospitalizations) for R>LLE swelling with an extensive but 
inconclusive workup, who now returns for ongoing RLE redness & 
pain and continued b/l ___ swelling. 

# ___ swelling: 
We feel that his lower extremity swelling is multifactorial. He 
likely had cellulitis/panniculitis during his ___ admission 
and based my clinical exam and my review of the recent MRI at 
___, he still has some edema in the posterior superficial 
fascial compartment of the leg. Despite this persistent 
swelling, he has no clinical evidence of systemic inflammatory 
response and - in light of his excellent micro workup at ___ 
___ - clinical suspicion for ongoing deep tissue infection is 
low. He was also on amlodipine, and may have had edema as a side 
effect of this. Although his TTE was fairly normal, BNP of 1400 
suggests a contribution of diastolic heart failure; he was 
started on Lasix 20 mg daily. 

# Acute-on-chronic diastolic heart failure
As above, I suspect that this ___ with pedal edema and 
elevated BNP has mild heart failure (although he has no 
appreciable left-sided CHF symptoms). TTE obtained this 
hospitalization demonstrated normal overall left ventricular 
systolic function (LVEF>55%). He was started on Lasix 20 mg 
daily. 

# HTN: ___ amlodipine was stopped. ___ blood 
pressure was stable off this medication. He continues on 
diltiazem.

Chronic Issues Pertinent to Admission:
======================================

# Paroxysmal Atrial Fibrillation: CHADSVASC 3. ___ continued 
Diltiazem, Propafenone and Rivaroxaban.
# H/o PE:continued rivaroxaban.
# HLD:Continued home statin.

Transitional Issues:
=====================
[ ] MEDICATION CHANGES:
- start taking Lasix 20 mg daily
- STOP taking amlodipine
[ ] Follow up with PCP ___ at 2:30PM)

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rivaroxaban 20 mg PO DAILY 
2. Simvastatin 20 mg PO QPM 
3. LORazepam 0.5 mg PO DAILY:PRN anxiety 
4. Ibuprofen 800 mg PO Q8H:PRN Pain - Moderate 
5. Diltiazem Extended-Release 240 mg PO DAILY 
6. amLODIPine 5 mg PO DAILY 
7. Propafenone HCl 150 mg PO TID 

 
Discharge Medications:
1.  Furosemide 20 mg PO DAILY edema 
RX *furosemide 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Diltiazem Extended-Release 240 mg PO DAILY  
3.  Ibuprofen 800 mg PO Q8H:PRN Pain - Moderate  
4.  LORazepam 0.5 mg PO DAILY:PRN anxiety  
5.  Propafenone HCl 150 mg PO TID  
6.  Rivaroxaban 20 mg PO DAILY  
7.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
lower extremity edema

Primary Diagnosis
lower extremity edema

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

Thank you for choosing to receive your care at ___.

Why did you come to ___?
-You came to ___ for evaluation of the swelling in your legs.

What did we do for you while you were at ___?
While you were in the hospital we checked labs and monitored for 
fevers. You did not have any fevers and your labs did not look 
like there was an infection. We also got an ultrasound of your 
heart called an echocardiogram which some minor changes but 
overall your heart function was stable. You were started on 
Lasix (a water pill) 20mg daily for management of the edema in 
your symptoms.

What should you did once you leave the hospital?
You should continue taking your medications including your new 
prescription. You should follow up with your primary care 
provider within ___ week of discharge from the hospital.

Please see a list of your medications below.

We wish you the best in feeling better.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___